US03932453
5-bromo-3-methyl-4-nitropyrazole
6.5 g (0.027 mole) of 4,5-dibromo-3-methylpyrazole was dissolved in 20 ml of concentrated sulfuric acid. The solution was cooled to 9°C and 10 ml of 90% nitric acid was added dropwise. The solution was stirred 30 minutes and then slowly heated to 60°C and kept at that temperature for 30 minutes. The solution was cooled and poured into water. The mixture was extracted with ether and the ether was washed with water. The ether solution, after drying over magnesium sulfate was concentrated in vacuo and gave a white solid (1.5 g). One recrystallization from ethyl acetate gave a solid product.

reactant | 4,5-dibromo-3-methylpyrazole | 0.027 mole, 6.5 g | BrC=1C(=NNC1Br)C | C4H4Br2N2
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-3-methyl-4-nitropyrazole | 1.5 g | BrC1=C(C(=NN1)C)[N+](=O)[O-] | C4H4BrN3O2
